US07312241B2
A suspension of 3-(3-methoxy-4-nitro-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile (0.9 g, 2.4 mmol) and tin chloride dihydrate (4.0 g, 17.7 mmol) in ethanol (25 mL) was heated at 70° C. for 1 h. The mixture was cooled and poured into ice (200 mL). The pH was made strongly alkaline by the addition of ION NaOH. The mixture was extracted with EtOAc (5×50 mL) and the combined organic extracts were washed with water (40 mL), brine (40 mL), and dried (MgSO4). Solvent was removed and the residue was purified by flash chromatography (silica gel, Hexane:EtOAc 1:1) to afford mixture isomers of 3-(4-amino-3-methoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile (0.4 g, 42%) as a yellow solid: mp 123-125° C.; 1H NMR (CDCl3) δ 7.05-6.53 (m, 5H), 5.56(5.43) (s, 1H), 4.12 (s, 2H), 3.91-3.81 (m, 12H); 13C NMR (CDCl3) δ 163.19, 163.09, 152.99, 152.93, 146.63, 139.82, 138.74, 135.43, 132.66, 128.33, 126.35, 124.12, 118.96, 113.76, 113.74, 111.99, 110.22, 107.35, 106.42, 91.14, 90.52, 60.94, 56.28, 56.25, 55.74, 55.59; Anal Calcd for C19H20N2O4: C, 67.05; H, 5.92; N, 8.23. Found: c, 66.92; H, 5.76; N, 8.10.

reactant | 3-(3-methoxy-4-nitro-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile | 2.4 mmol, 0.9 g | COC=1C=C(C=CC1[N+](=O)[O-])C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC | C19H18N2O6
reactant | tin chloride dihydrate | 17.7 mmol, 4.0 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-(4-amino-3-methoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile | 0.4 g, 42% | NC1=C(C=C(C=C1)C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC)OC | C19H20N2O4
